US07696213B2
A microwave vial was charged with Mo(CO)6 (264 mg, 1.0 mmol), Herrmann's palladacycle (23 mg, 0.025 mmol), [(t-Bu)3PH]BF4 (15 mg, 0.050 mmol), 2-amino-6-bromo-8-(trans-4-hydroxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (353 mg, 1.0 mmol), DMF (5 mL) and butanol (5 mL). DBU (412 ml, 3.0 mmol) was added, followed by rapid sealing of the vial under air. The vial was then heated to 120° C. by microwave irradiation for 30 minutes. After cooling, the reaction mixture was slurried with water and filtered. The precipitate was washed with ether and dried to afford 253 mg of butyl 2-amino-8-(trans-4-hydroxycyclohexyl)-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylate.

reactant | 2-amino-6-bromo-8-(trans-4-hydroxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 1.0 mmol, 353 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)[C@@H]2CC[C@H](CC2)O)C | C14H17BrN4O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | butanol | 5 mL | C(CCC)O | C4H10O
reactant | DBU | 3.0 mmol, 412 ml | C1CCC2=NCCCN2CC1 | C9H16N2
catalyst | Herrmann's palladacycle | 0.025 mmol, 23 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC(=O)O.CC(=O)O.[Pd].[Pd]
catalyst | [(t-Bu)3PH]BF4 | 0.050 mmol, 15 mg | [B-](F)(F)(F)F.CC(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | water | O | H2O
product | butyl 2-amino-8-(trans-4-hydroxycyclohexyl)-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylate | 253 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)C(=O)OCCCC)=O)[C@@H]2CC[C@H](CC2)O)C | C19H26N4O4
